US04705900
A solution of 3-fluorobenzyl bromide (4.73 g) in dry toluene (5.0 cm3) was added to a stirred suspension of triphenylphosphine (4.87 g) in dry toluene (5.0 cm3) and after 30 minutes the resultant precipitate was collected by filtration and washed with toluene to yield 4-fluorobenzyltriphenylphosphonium bromide (7.1 g) as a white solid.

reactant | 3-fluorobenzyl bromide | 4.73 g | FC=1C=C(CBr)C=CC1 | C7H6BrF
reactant | triphenylphosphine | 4.87 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | toluene | 5.0 cm3 | C1(=CC=CC=C1)C | C7H8
reactant | toluene | 5.0 cm3 | C1(=CC=CC=C1)C | C7H8
product | 4-fluorobenzyltriphenylphosphonium bromide | 7.1 g | [Br-].FC1=CC=C(C[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=C1 | InChI=1S/C25H21FP.BrH/c26-22-18-16-21(17-19-22)20-27(23-10-4-1-5-11-23,24-12-6-2-7-13-24)25-14-8-3-9-15-25;/h1-19H,20H2;1H/q+1;/p-1
